US04446319
In 100 ml of water is dissolved 2.0 g of 9-bromo-6,7,8-trihydroxy-1-hydroxymethyl-3-oxo-2-oxa-4-azabicyclo[3.3.1]nonane, and 400 mg of palladium black is added to the solution, followed by stirring for 8 hours in a stream of hydrogen at room temperature. The catalyst is filtered off and washed with water. The filtrate and washings are combined, adjusted to pH 6 by adding a saturated aqueous solution of sodium hydrogen carbonate, and concentrated under reduced pressure. The residue is chromatographed on a column of 250 ml of MCI Gel CHP 20P (produced by Mitsubishi Chemical Ind., Ltd., Japan), followed by elution with water. The eluate is chromatographed on a column of activated carbon (250 ml), and the column is washed with water, followed by elution with a water-methanol gradient. The eluate containing the objective compound is concentrated under reduced pressure, and methanol is added to the residue, which is then allowed to stand overnight in a refrigerator to give crystals of 6,7,8-trihydroxy-1-hydroxymethyl-3-oxo-2-oxa-4-azabicyclo[3.3.1]nonane. Yield of 780 mg.

reactant | 9-bromo-6,7,8-trihydroxy-1-hydroxymethyl-3-oxo-2-oxa-4-azabicyclo[3.3.1]nonane | 2.0 g | BrC1C2(OC(NC1C(C(C2O)O)O)=O)CO | C8H12BrNO6
reactant | hydrogen | [H][H] | H2
solvent | water | 100 ml | O | H2O
catalyst | palladium black | 400 mg | [Pd] | Pd
product | 6,7,8-trihydroxy-1-hydroxymethyl-3-oxo-2-oxa-4-azabicyclo[3.3.1]nonane | OC1C2NC(OC(C(C1O)O)(C2)CO)=O | C8H13NO6
